simulator lang=spectre
global 0
parameters biasn={{biasn}} lg_vbiasp2={{lg_vbiasp2}} lg_vbiasp={{lg_vbiasp}} nA={{nA}} nB0={{nB0}} nB10={{nB10}} nB11={{nB11}} nB1={{nB1}} nB2={{nB2}} nB3={{nB3}} nB4={{nB4}} nB5={{nB5}} nB6={{nB6}} nB7={{nB7}} nB8={{nB8}} nB9={{nB9}} tempc={{tempc}} vcm={{vcm}} vdd={{vdd}} 
include "/homes/natelgrw/Documents/TURBO_circuit_optimizer/lstp/7nfet.pm"
include "/homes/natelgrw/Documents/TURBO_circuit_optimizer/lstp/7pfet.pm"

subckt single_ended_cascode_current_mirror_pmos Vbiasn2 Vbiasp Vbiasp2 Vinn Vinp Voutp
MM14 net025 net012 vdd! vdd! pfet l=nA nfin=nB0
MM13 net024 net012 vdd! vdd! pfet l=nA nfin=nB0
MM3 Voutp Vbiasp2 net025 vdd! pfet l=nA nfin=nB1
MM2 net012 Vbiasp2 net024 vdd! pfet l=nA nfin=nB1
MM7 net11 Vinn net14 net27 pfet l=nA nfin=nB2
MM6 net16 Vinp net14 net27 pfet l=nA nfin=nB2
MM5 net14 Vbiasp vdd! vdd! pfet l=nA nfin=nB3
MM12 net29 net11 gnd! gnd! nfet l=nA nfin=nB4
MM11 net32 net16 gnd! gnd! nfet l=nA nfin=nB4
MM10 net33 net11 gnd! gnd! nfet l=nA nfin=nB5
MM4 net26 net16 gnd! gnd! nfet l=nA nfin=nB5
MM1 Voutp Vbiasn2 net29 gnd! nfet l=nA nfin=nB6
MM0 net012 Vbiasn2 net32 gnd! nfet l=nA nfin=nB6
MM9 net11 Vbiasn2 net33 gnd! nfet l=nA nfin=nB7
MM8 net16 Vbiasn2 net26 gnd! nfet l=nA nfin=nB7
ends single_ended_cascode_current_mirror_pmos

subckt LG_load_biasn_LV Vbiasn2 Biasp
MM13 net9 Vbiasn2 gnd! gnd! nfet l=nA nfin=nB8
MM15 Vbiasn2 Vbiasn2 net9 gnd! nfet l=nA nfin=nB8
MM14 Vbiasn2 Biasp vdd! vdd! pfet l=nA nfin=nB9
ends LG_load_biasn_LV

subckt CR13_2 Vbiasn Vbiasp
MM2 Vbiasp Vbiasn gnd! gnd! nfet l=nA nfin=nB10
MM0 Vbiasn Vbiasn gnd! gnd! nfet l=nA nfin=nB10
MM3 Vbiasp Vbiasp vdd! vdd! pfet l=nA nfin=nB11
MM1 Vbiasn Vbiasp vdd! vdd! pfet l=nA nfin=nB11
ends CR13_2

VS (gnd! 0) vsource dc=0 type=dc
V0 (vdd! gnd!) vsource dc=vdd type=dc
V2 (in gnd!) vsource type=dc mag=1
E1 (Vinp cm in gnd!) vcvs gain=.5
E0 (Vinn cm in gnd!) vcvs gain=-0.5
V1 (cm gnd!) vsource dc=vcm type=dc
VP0 (LG_Vbiasp gnd!) vsource dc=lg_vbiasp type=dc
VP1 (LG_Vbiasp2 gnd!) vsource dc=lg_vbiasp2 type=dc
VN0 (Biasn gnd!) vsource dc=biasn type=dc

xiota LG_Vbiasn2 LG_Vbiasp LG_Vbiasp2 Vinn Vinp Voutp single_ended_cascode_current_mirror_pmos

xiLG_load_biasn_LV LG_Vbiasn2 Biasp LG_load_biasn_LV

xibCR13_2 Biasn Biasp CR13_2


simulatorOptions options psfversion="1.4.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=tempc tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf
    ac ac start=1 stop=100G dec=10 annotate=status
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
